US04642351
Preparation of N-(cyclohexyl)-N'-(2-chloroethyl)imidazolidinone
A mixture of cyclohexyl isocyanate (50 mmoles), N-(2-chloroethyl)-2-oxazolidinone (50 mmoles) and anhydrous AlCl3 (40 mg, 0.3 mmole) is heated at 195° C. for 6 hours with stirring. The reaction mixture is dissolved in dichloromethane and the resulting solution is washed with water twice. The dichloromethane solution is dried and evaporated and the residue distilled at reduced pressure. The distillate is recrystallized from hot hexane to give a 50 percent yield of the desired product, m.p. 60° C.-64° C.

reactant | cyclohexyl isocyanate | 50 mmoles | C1(CCCCC1)N=C=O | C7H11NO
reactant | N-(2-chloroethyl)-2-oxazolidinone | 50 mmoles | ClCCN1C(OCC1)=O | C5H8ClNO2
reactant | AlCl3 | 0.3 mmole, 40 mg | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(cyclohexyl)-N'-(2-chloroethyl)imidazolidinone | 50 percent yield | C1(CCCCC1)N1C(N(CC1)CCCl)=O | C11H19ClN2O
